US08049013B2
2-(4-Chloro-phenyl)-6,7-dihydro-pyrano[4,3-d]thiazol-4-one
Mix 2-(4-chloro-phenyl)-4-(2-hydroxy-ethyl)-thiazole-5-carboxylic acid (81.2 g, 286.2 mmol) with p-TsOH monohydrate (32.0 g, 168.2 mmol) and toluene (1200 mL). Heat the slurry to reflux during which time the solids dissolve. Stir the resulting tan solution mechanically for 2 h, using a Dean-Stark trap to collect water (21 mL). Cool the solution to room temperature and add saturated aqueous NaHCO3 (1700 mL) and EtOAc (1700 mL). Separate the organic solution, then extract the aqueous layer with EtOAc (2×1700 mL). Combine the organic solutions, wash with brine (1700 mL), and concentrate in vacuo to give a solid. Mix the solid with CH2Cl2 (500 mL) and concentrate in vacuo and repeat two times to give 60.1 g (79%) of the title compound. ES/MS m/z (35Cl) 266.0 [M+1]+.

reactant | 2-(4-chloro-phenyl)-4-(2-hydroxy-ethyl)-thiazole-5-carboxylic acid | 286.2 mmol, 81.2 g | ClC1=CC=C(C=C1)C=1SC(=C(N1)CCO)C(=O)O | C12H10ClNO3S
reactant | toluene | 1200 mL | C1(=CC=CC=C1)C | C7H8
solvent | CH2Cl2 | 500 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-Chloro-phenyl)-6,7-dihydro-pyrano[4,3-d]thiazol-4-one | 60.1 g, 79% | ClC1=CC=C(C=C1)C=1SC2=C(N1)CCOC2=O | C12H8ClNO2S
